US07947689B2
(6-Chloro-pyrazolo[1,5-a]pyrimidin-2-yl)-(1,5,5-trimethyl-1,3,4,5-tetrahydro-[2]pyrindin-2-yl)-methanone
In close analogy to the procedure described in Example 1, 6-chloro-pyrazolo[1,5-a]pyrimidine-2-carboxylic acid is reacted with 1,5,5-trimethyl-2,3,4,5-tetrahydro-1H-[2]pyrindine to provide the title compound.

reactant | 6-chloro-pyrazolo[1,5-a]pyrimidine-2-carboxylic acid | ClC=1C=NC=2N(C1)N=C(C2)C(=O)O | C7H4ClN3O2
reactant | 1,5,5-trimethyl-2,3,4,5-tetrahydro-1H-[2]pyrindine | CC1NCCC=2C(C=CC12)(C)C | C11H17N
product | (6-Chloro-pyrazolo[1,5-a]pyrimidin-2-yl)-(1,5,5-trimethyl-1,3,4,5-tetrahydro-[2]pyrindin-2-yl)-methanone | ClC=1C=NC=2N(C1)N=C(C2)C(=O)N2C(C=1C=CC(C1CC2)(C)C)C | C18H19ClN4O
